US04958019
(1) Synthesis of 7-hydroxy-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine
A mixture of 90 g of methoxy acetic acid, 68 g of aminoguanidine bicarbonate, 40 ml of water and 0.5 ml of conc. nitric acid was stirred under reflux for 24 hours, and then condensed. To the resulting residue were added 250 ml of methyl acetoacetate and 5 ml of acetic acid and the mixture was stirred in a bath of 100 to 120 ° C. After 4 hours, the mixture was cooled by allowing to stand and crystals were collected by filtration, washed with isopropanol and dried to obtain 82 g of the title compound.

reactant | methoxy acetic acid | 90 g | COCC(=O)O | C3H6O3
reactant | aminoguanidine bicarbonate | 68 g | C(O)(O)=O.NNC(=N)N
reactant | nitric acid | 0.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | methyl acetoacetate | 250 ml | C(CC(=O)C)(=O)OC | C5H8O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | 7-hydroxy-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine | 82 g | OC1=CC(=NC=2N1N=C(N2)COC)C | C8H10N4O2
